US09302991B2
<Step-1>: 2-amino-6-methyl-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)isonicotinamide (single enantiomer)
The title compound is prepared in 71% yield (413 mg, a brown solid) from (−)-1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine hydrochloride (422 mg, 1.6 mmol, Amine-1, single enantiomer) and 2-amino-6-methylisonicotinic acid (250 mg, 1.6 mmol) by the similar manner in Step-1 of Example 8.

reactant | (−)-1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine hydrochloride | 1.6 mmol, 422 mg | Cl.FC(COC1=CC=C(C=N1)C(C)N)(F)F
reactant | 2-amino-6-methylisonicotinic acid | 1.6 mmol, 250 mg | NC=1C=C(C(=O)O)C=C(N1)C | C7H8N2O2
product | 2-amino-6-methyl-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)isonicotinamide | 71% yield | NC=1C=C(C(=O)NC(C)C=2C=NC(=CC2)OCC(F)(F)F)C=C(N1)C | C16H17F3N4O2
